US04578464
A mixture of 37.6 g of 6-chloro-3-hydrazino-4-methylpyridazine and 50 ml of formic acid was heated, with stirring, on a boiling water bath for 30 minutes. The mixture was cooled and excess acid was removed by distillation under reduced pressure. The residual damp solid was dissolved in 300 ml of methylene chloride and washed with aqueous saturated sodium bicarbonate solution. The organic solution was then dried over anhydrous sodium sulfate and filtered through Celite and the solvent was evaporated to leave a residual tan solid. This was recrystallized from ethyl acetate to give 6-chloro-8-methyl-1,2,4-triazolo[4,3-b]pyridazine melting at about 134-136° C.

reactant | 6-chloro-3-hydrazino-4-methylpyridazine | 37.6 g | ClC1=CC(=C(N=N1)NN)C | C5H7ClN4
reactant | formic acid | 50 ml | C(=O)O | CH2O2
product | 6-chloro-8-methyl-1,2,4-triazolo[4,3-b]pyridazine | ClC=1C=C(C=2N(N1)C=NN2)C | C6H5ClN4
